US08003806B2
(a) Methyl (3R)-3-(2,4-dinitroanilino)-3-phenylpropanoate
To a solution of 2,4-dinitrochlorobenzene (5.1 g, 25 mmol) in methanol (60 mL) was added methyl (3R)-3-amino-3-phenylpropanoate (3.75 g, 21 mmol, prepared according to Davies et. al., Tetrahedron Asymm., 1991, 183) and triethylamine (2.9 mL, 21 mmol). The mixture was brought to reflux, heating in total for 5 hours, and was then cooled and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (95:5), to afford the title compound, [LCMS (Method C, Mobile Phase I) RT=3.22 mins, MH+ 346].

reactant | 2,4-dinitrochlorobenzene | 25 mmol, 5.1 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | methyl (3R)-3-amino-3-phenylpropanoate | 21 mmol, 3.75 g | N[C@H](CC(=O)OC)C1=CC=CC=C1 | C10H13NO2
reactant | triethylamine | 21 mmol, 2.9 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 60 mL | CO | CH4O
product | Methyl (3R)-3-(2,4-dinitroanilino)-3-phenylpropanoate | [N+](=O)([O-])C1=C(N[C@H](CC(=O)OC)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C16H15N3O6
